US08754089B2
A mixture of 3-bromo-7-fluoro-2-(hydroxymethyl)-4H-pyrido[1,2-a]pyrimidin-4-one (5.6359 g, 20.64 mmol) and manganese(IV) oxide (17.94 g, 206.4 mmol) in toluene (137.6 mL) was heated to reflux. After 3 h, the mixture was cooled to rt and filtered through a pad of Celite™. The pad was rinsed with DCM (1 L). The filtrate was concd under reduced pressure to give 3-bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carbaldehyde (2.4747 g, 44.24% yield) as a bright yellow solid: 1H NMR (500 MHz, DMSO-d6) δ ppm 10.13 (1 H, s), 9.03-9.06 (1 H, m), 8.24 (1 H, ddd, J=9.8, 7.1, 2.7 Hz), 8.00-8.05 (1 H, m); Mass Spectrum (ESI) m/e=270.9 [M+1 (79Br)] and 273.0 [M+1 (81Br)].

reactant | 3-bromo-7-fluoro-2-(hydroxymethyl)-4H-pyrido[1,2-a]pyrimidin-4-one | 20.64 mmol, 5.6359 g | BrC1=C(N=C2N(C1=O)C=C(C=C2)F)CO | C9H6BrFN2O2
solvent | toluene | 137.6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese(IV) oxide | 206.4 mmol, 17.94 g | [O-2].[Mn+4].[O-2]
product | 3-bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carbaldehyde | 2.4747 g, 44.24% yield | BrC1=C(N=C2N(C1=O)C=C(C=C2)F)C=O | C9H4BrFN2O2
